US09315458B2
B) methyl 5-bromo-2-hydroxy-4-methylbenzoate
To a solution of 5-bromo-2-hydroxy-4-methylbenzoic acid (6.78 g) in methanol (200 mL) was added dropwise sulfuric acid (6.77 mL), and the mixture was stirred overnight at 70° C. The reaction mixture was concentrated under reduced pressure, the residue was neutralized with saturated aqueous sodium bicarbonate solution under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (6.56 g).

reactant | 5-bromo-2-hydroxy-4-methylbenzoic acid | 6.78 g | BrC=1C(=CC(=C(C(=O)O)C1)O)C | C8H7BrO3
reactant | sulfuric acid | 6.77 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | methyl 5-bromo-2-hydroxy-4-methylbenzoate | 6.56 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)C | C9H9BrO3
